### ISSUE TITLE
Pedagogical examples for QuantumMechanics.OneDimension.HarmonicOscillator

### ISSUE THREAD

**Issue by NicolaBernini** [HEPLean/HEPLean#808]
## Summary

I’d like to add a small “examples” module for the 1d quantum harmonic oscillator, to make it easier for new users to see how to use the `QuantumMechanics.OneDimension.HarmonicOscillator` API in practice.

The idea is similar in spirit to `PhysLean/Units/Examples.lean`: a self-contained file intended for experimentation and pedagogy, not for import by other modules.

## Motivation

- Provide a minimal, concrete entry point for people who want to “see something physics-y” quickly.
- Show how to construct a simple harmonic oscillator and access the main objects:
  - the `HarmonicOscillator` structure,
  - eigenfunctions `eigenfunction n`,
  - eigenvalues `eigenValue n`,
  - the Schrödinger operator `schrodingerOperator`,
  - and the key theorem `schrodingerOperator_eigenfunction`.

This is especially useful for people following the documentation pages on the harmonic oscillator.

## Proposed change

Add a new file

- `PhysLean/QuantumMechanics/OneDimension/HarmonicOscillator/Examples.lean`

with content along the lines of:

- A `HarmonicOscillatorExamples` namespace.
- A concrete oscillator
```lean
noncomputable def Q : HarmonicOscillator :=
{ m := 1, ω := 1, hω := by norm_num, hm := by norm_num }
```

- A few #checks to expose the main API:
  - Q.eigenfunction 0
  - Q.eigenValue 0
  - Q.schrodingerOperator (Q.eigenfunction 0)
  - Q.schrodingerOperator_eigenfunction 0
- A module docstring explaining that the file is for experimentation / pedagogy, and should not be imported elsewhere, plus a command-line usage hint:

```
lake env lean PhysLean/QuantumMechanics/OneDimension/HarmonicOscillator/Examples.lean
```

---

I have a PR ready consisting of the this file here `QuantumMechanics/OneDimension/HarmonicOscillator/Examples.lean` while this example 

```lean
import PhysLean.QuantumMechanics.OneDimension.HarmonicOscillator.TISE

/-!
# Examples: 1d Quantum Harmonic Oscillator

This module gives simple examples of how to use the
`QuantumMechanics.OneDimension.HarmonicOscillator` API.

It is intended for experimentation and pedagogical use, and should
not be imported into other modules.

To run it from the command line:
lake env lean PhysLean/QuantumMechanics/OneDimension/HarmonicOscillator/Examples.lean
-/

namespace HarmonicOscillatorExamples

open QuantumMechanics OneDimension HarmonicOscillator

/-- A concrete harmonic oscillator with `m = 1`, `ω = 1`. -/
noncomputable def Q : HarmonicOscillator :=
  { m := 1
    ω := 1
    hω := by norm_num
    hm := by norm_num }

-- Ground-state wavefunction and energy
#check Q.eigenfunction 0
#check Q.eigenValue 0

-- Schrödinger operator acting on the ground state
#check Q.schrodingerOperator (Q.eigenfunction 0)

-- The time-independent Schrödinger equation for n = 0
#check Q.schrodingerOperator_eigenfunction 0

/-- The explicit pointwise form of the time-independent Schrödinger equation
for the ground state `n = 0`. -/
example :
    ∀ x, Q.schrodingerOperator (Q.eigenfunction 0) x =
      (Q.eigenValue 0) * Q.eigenfunction 0 x :=
  Q.schrodingerOperator_eigenfunction 0


end HarmonicOscillatorExamples
```
 
Can also include additional pedagogical material showing the corresponding math, meaning this code checks the following (pointwise) equivalence 

$$ \forall x \quad H \psi_{0}(x) = E_{0} \psi_{0}(x) $$

with 

$$ H = - \frac{\hbar^2}{2m} \frac{\partial^2}{\partial x^2} + V(x) $$

---

Would you give me write access to so that I can push it into a specific branch and PR it against `master` branch?

**Comment by jstoobysmith** [comment]
I think this is a great idea and would personal love to see a PR in this direction!

We might want to comment out the `#check ...` statements though, as they might print a message very time PhysLean builds, which might not be ideal. There may be a way around this though.

**Comment by NicolaBernini** [comment]
Thanks @jstoobysmith for your reply 
 If you allow me to push the PR (atm I do not have write permissions at all, meaning not just on master but also on any branch) we can iterate on that with code review

**Comment by jstoobysmith** [comment]
Hi @NicolaBernini, you should be able to make a fork of the project and make a pull-request via that route. You shouldn't need any permissions to do this and we should still be able to iterate with code review.

**Comment by jstoobysmith** [comment]
If you need any help with this, let me know - happy to provide instructions/guidance.

**Comment by NicolaBernini** [comment]
Hi, 
sure, no worries, just PRed #809 this (with checks commented out as requested)

**Comment by jstoobysmith** [comment]
Closing this issue for now, since #809 addresses it :).
